US08614215B2
Intermediate 85: Tetrahydrothiophene-3-sulfonamide 1,1-dioxide
Dioxane (30 mL) is saturated with ammonia and cooled down to 0° C. A solution of tetrahydrothiophene-3-sulfonyl chloride 1,1-dioxide (0.5 g; 2.3 mmol; 1 eq) in dioxane (5 mL) is then added dropwise over 10 min. The reaction mixture is allowed to return to room temperature and stirred for 3 h while keeping ammonia bubbling. The suspension is filtered through a short plug of silica using dioxane as eluent, and the resulting solution is concentrated in vacuo to give a slightly yellow oil. The oil is taken up in MeOH and the solvent is evaporated to dryness to afford 0.37 g (81%) of the title compound as a beige solid. 1H NMR (DMSO-d6) δ 7.25 (s, 2H), 3.98 (quint., J=8.3 Hz, 1H), 3.49 (dd, J=14.0, 9.1 Hz, 1H), 3.38-3.14 (m, 3H), 2.50-2.24 (m, 2H).

reactant | ammonia | N | H3N
reactant | tetrahydrothiophene-3-sulfonyl chloride 1,1-dioxide | 2.3 mmol, 0.5 g, 1 eq | C1CS(=O)(=O)CC1S(=O)(=O)Cl | C4H7ClO4S2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | CO | CH4O
solvent | Dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | Tetrahydrothiophene-3-sulfonamide 1,1-dioxide | 0.37 g, 81% | S1(CC(CC1)S(=O)(=O)N)(=O)=O | C4H9NO4S2
